US03984465
By following the procedure described in Example 5, Step E, using as the reactants 2,3-dimethyl-5-methoxy-6,7-dichloro-1-indanone (13 g., 0.05 mole), sodium hydride (1.44 g., 0.06 mole), 1,2-dimethoxyethane (500 ml.) and methyl iodide (8 ml.), there is obtained 2,2,3-trimethyl-5-methoxy-6,7-dichloro-1-indanone.

reactant | 2,3-dimethyl-5-methoxy-6,7-dichloro-1-indanone | 0.05 mole, 13 g | CC1C(C2=C(C(=C(C=C2C1C)OC)Cl)Cl)=O | C12H12Cl2O2
reactant | sodium hydride | 0.06 mole, 1.44 g | [H-].[Na+]
reactant | methyl iodide | 8 ml | CI | CH3I
solvent | 1,2-dimethoxyethane | 500 ml | COCCOC | C4H10O2
product | 2,2,3-trimethyl-5-methoxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1C)OC)Cl)Cl)=O)C | C13H14Cl2O2
